US05374641
In argon atmosphere, 7.60 g of diisopropylamine was dissolved in 100 ml of dry tetrahydrofuran, followed by dropwise addition of 1.55M n-butyl lithium in 48.4 ml of hexane in solution at -20° C., which was then agitated at the same temperature for 15 minutes, subsequently followed by cooling to -78° C. and by subsequent dropwise addition of 15.48 g of 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile dissolved in 150 ml of dry tetrahydrofuran over 10 minutes. After agitation at the same temperature for 30 minutes, the addition of 20.50 g of ethyl 4-(bromomethyl)phenoxyacetate dissolved in 30 ml of tetrahydrofuran over 10 minutes, the temperature was gradually raised from -78° C. to room temperature, followed by stirring overnight. Then, 1.0M tetra-n-butylammonium fluoride in 75.1 ml of tetrahydrofuran in solution was added, followed by agitation for five hours. To the resulting reaction mixture was added aqueous saturated solution of sodium chloride, followed by separation of the organic phase, which was then extracted with ethyl acetate from aqueous phase. The organic phases were combined, then washed in aqueous saturated solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, to yield 13.20 g of ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenoxyacetate from a fraction eluted with methanol-chloroform (2:98 v/v).

reactant | diisopropylamine | 7.60 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile | 15.48 g | N1=CC(=CC=C1)C(C#N)O[Si](C)(C)C | C10H14N2OSi
reactant | ethyl 4-(bromomethyl)phenoxyacetate | 20.50 g | BrCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13BrO3
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 48.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75.1 ml | O1CCCC1 | C4H8O
product | ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenoxyacetate | 13.20 g | O=C(CC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C17H17NO4
